* C:\Users\ACER\Desktop\BJT\npn\sim_bjt_output.asc
V1 VBE 0 {VVAR}
Q1 VCE VBE 0 0 2N3904
V2 VCE 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\ACER\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Curva de salida IC vs VCE
.include 2N3904.SP3
.dc V2 0 5 0.01
.step param VVAR list 0.3 0.5 0.7 0.9 1.1 1.3
.backanno
.end
