* C:\Users\sebas\OneDrive\Attachments\Desktop\TareaDeActivos\caca\Tarea-Elementos-Activos\PMOS\sim_pmos_salida.asc
V1 VSD N001 {VVAR}
V2 VSD 0 0
XM1 0 N001 VSD TP0610K
.include tp0610k.txt
.dc V2 0 5 0.01
* Curva de salida ID vs VSD
.step param VVAR list 1.1 1.3 1.5 1.7 1.9
.backanno
.end
