* C:\Users\sebas\OneDrive\Attachments\Desktop\TareaDeActivos\caca\Tarea-Elementos-Activos\PMOS\sim_pmos_transferencia.asc
V1 VSD N001 0 AC 10
XM1 0 N001 VSD TP0610K
V2 VSD 0 5
.dc V1 0 4 0.01
.include tp0610k.txt
* Curva de transferencia ID vs VSG
.backanno
.end
